US06911462B2
2-(N-Cyclohexanecarbonyl-4-aminophenyl)-5-trifluoromethyl benzimidazole was prepared from the amine, 2-(4-aminophenyl)-5-trifluoromethyl benzimidazole (1.2 see above). The amine (0.239 g, 0.86-mmol) was dissolved in THF:H2O (5 ml, 1:1) followed by K2CO3 (0.1213 g, 0.88 mmol) and cyclohexyl carbonyl chloride (130 μL, 0.95 mmol). The reaction mixture was shaken for 23 h at room temperature. Sodium chloride was added to the reaction and the mixture extracted with EtOAc. The combined organic extracts were washed with water, dried over Na2SO4 and concentrated under vacuum. The resulting solid was purified by preparative TLC (10% MeOH in CH2Cl2).

reactant | 2-(4-aminophenyl)-5-trifluoromethyl benzimidazole | NC1=CC=C(C=C1)C=1NC2=C(N1)C=CC(=C2)C(F)(F)F | C14H10F3N3
reactant | K2CO3 | 0.88 mmol, 0.1213 g | C(=O)([O-])[O-].[K+].[K+]
reactant | cyclohexyl carbonyl chloride | 0.95 mmol, 130 μL | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | Sodium chloride | [Cl-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | 5 ml | O | H2O
product | 2-(N-Cyclohexanecarbonyl-4-aminophenyl)-5-trifluoromethyl benzimidazole | C1(CCCCC1)C(=O)NC1=CC=C(C=C1)C=1NC2=C(N1)C=CC(=C2)C(F)(F)F | C21H20F3N3O
